US07378404B2
2-fluoro-3,17β-bis-(tetrahydropyran-2-yloxy)-8β-vinyl-estra-1,3,5(10)-triene
3 ml of a 1.3 M s-butyllithium solution was added in drops under argon to a solution of 120 mg of 3,17β-bis-(tetrahydropyran-2-yloxy)-8β-vinyl-estra-1,3,5(10)-triene in 4 ml of THF that was cooled to −78° C., it was stirred for 30 minutes and then a solution that consists of 650 mg of N-fluorodibenzenesulfonimide in 4 ml of THF was added in drops while being exposed to continuous cooling. The reaction mixture was stirred first for 1 hour at −78° C. then for another 16 hours while being heated to room temperature. The reaction solution was poured onto ice water, extracted several times with ethyl acetate, the collected organic phases were washed with saturated sodium chloride solution, dried on magnesium sulfate and concentrated by evaporation in a vacuum. The dark, oily crude product (330 mg) was used in the next stage without further purification.

reactant | s-butyllithium | 1.3 M | C(C)(CC)[Li]
reactant | 3,17β-bis-(tetrahydropyran-2-yloxy)-8β-vinyl-estra-1,3,5(10)-triene | 120 mg | O1C(CCCC1)OC1=CC=2CC[C@]3([C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)OC1OCCCC1)C=C | C30H42O4
reactant | N-fluorodibenzenesulfonimide | 650 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-fluoro-3,17β-bis-(tetrahydropyran-2-yloxy)-8β-vinyl-estra-1,3,5(10)-triene | FC=1C(=CC=2CC[C@]3([C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C1)OC1OCCCC1)C=C)OC1OCCCC1 | C30H41FO4
